US04785010
1-(Methoxycarbonyl-methyl)-2-(phthalimido-methyl)-5-ethylpyrrole
6.8 g (0.025 mol) of 7-phthalimido-3,6-heptanedione, 3.5 g (0.028 mol) of glycine methyl ester hydrochloride and 2.3 g (0.028 mol) of sodium acetate are stirred in 150 ml of cyclohexanol at 60° C. for 13 hours and the mixture is worked up as in Example 22.

reactant | 7-phthalimido-3,6-heptanedione | 0.025 mol, 6.8 g | C1(C=2C(C(N1CC(CCC(CC)=O)=O)=O)=CC=CC2)=O | C15H15NO4
reactant | glycine methyl ester hydrochloride | 0.028 mol, 3.5 g | Cl.COC(CN)=O
reactant | sodium acetate | 0.028 mol, 2.3 g | C(C)(=O)[O-].[Na+]
solvent | cyclohexanol | 150 ml | C1(CCCCC1)O | C6H12O
product | 1-(Methoxycarbonyl-methyl)-2-(phthalimido-methyl)-5-ethylpyrrole | COC(=O)CN1C(=CC=C1CC)CN1C(C=2C(C1=O)=CC=CC2)=O | C18H18N2O4
